US07592373B2
1.23.a. Propynoic acid-(4′-chlorobiphenyl-4-yl)amide
Prepared analogously to Example 1.1.b. from 4′-chlorobiphenyl-4-ylamine and propynoic acid. Yield: 0.4 g (29.2% of theory); C15H10ClNO (M=255.70); calc.: molecular ion peak (M+H)+: 256/258; found: molecular ion peak (M+H)+: 256/258; Rf value: 0.35 (silica gel, dichloromethane/ethanol 20:1).

reactant | 4′-chlorobiphenyl-4-ylamine | ClC1=CC=C(C=C1)C1=CC=C(C=C1)N | C12H10ClN
reactant | propynoic acid | C(C#C)(=O)O | C3H2O2
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | Propynoic acid-(4′-chlorobiphenyl-4-yl)amide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(C#C)=O | C15H10ClNO
